// Generated for: spectre
// Generated on: Oct 16 12:23:33 2025
// Design library name: mastlib2
// Design cell name: rlc
// Design view name: schematic
simulator lang=spectre
global 0

// Library name: mastlib2
// Cell name: rlc
// View name: schematic
C0 (net4 net3) capacitor c=95u
R0 (net3 0) resistor r=89 c=0
L0 (net2 net4) inductor l=15m
V0 (net2 0) vsource type=pulse val0=0 val1=1 period=20n width=10n
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=200n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
