// Generated for: spectre
// Generated on: Nov  4 15:08:28 2025
// Design library name: sallen_key_filter
// Design cell name: sallen_key_filter
// Design view name: schematic
simulator lang=spectre
global 0
include "/softslin/AMS_410_ISR15/spectre/c35/soac/soac.scs"
parameters R5=4000 R4=4000 R3=2000 R2=1000 R1=5180.0 C2=5e-09 C1=5e-09
include "/softslin/AMS_410_ISR15/spectre/c35/soac/processOption.scs"
include "/softslin/AMS_410_ISR15/spectre/c35/soac/cmos53.scs" section=cmostm
include "/softslin/AMS_410_ISR15/spectre/c35/soac/res.scs" section=restm
include "/softslin/AMS_410_ISR15/spectre/c35/soac/cap.scs" section=captm
include "/softslin/AMS_410_ISR15/spectre/c35/soac/bip.scs" section=biptm
include "/softslin/AMS_410_ISR15/spectre/c35/soac/ind.scs" section=indtm
include "/softslin/AMS_410_ISR15/spectre/c35/soac/esddiode.scs" section=esddiodetm

// Library name: sallen_key_filter
// Cell name: sallen_key_filter
// View name: schematic
R5 (net1 0) resistor r=R3 c=0
R4 (net7 0) resistor r=R4 c=0
R3 (net7 V_out) resistor r=R5 c=0
R2 (net4 V_out) resistor r=R2 c=0
R1 (V_out 0) resistor r=10k c=0
R0 (V_in net4) resistor r=R1 c=0
C1 (net1 net4) capacitor c=C1
C0 (net4 0) capacitor c=C2
V0 (V_in 0) vsource type=pwl file="input_amprbs"
simulatorOptions options psfversion="1.1.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf enable_pre_ver=yes ignorezerovar=yes 
tran tran stop=100m errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
